US03971806
Thiopyrano[3,2-b]indol-4(5H)-one.
A solution of 76.7 g (0.35 mole) of 3-(indol-3 ylthio) acrylic acid in 4 liters of 10% polyphosphoric acid in acetic acid is stirred at room temperature for 65 hours. The supernatent is decanted from the sticky precipitate, which is partitioned between chloroform and 5% NaOH solution. The organic phase is washed with water, dried, evaporated and the residue recrystallized from 3 liters of 95% ethanol to give 37.8 g of product, mp 242°-243°C.

reactant | 3-(indol-3 ylthio) acrylic acid | 0.35 mole, 76.7 g | N1C=C(C2=CC=CC=C12)SC=CC(=O)O | C11H9NO2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Thiopyrano[3,2-b]indol-4(5H)-one | 37.8 g | S1C=CC(C=2NC=3C=CC=CC3C21)=O | C11H7NOS
